US08957068B2
To a solution of tert-butyl 4-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)-2,2-dimethylpiperazine-1-carboxylate (78 mg, 0.14 mmol) in DCM (1 mL) was added TFA (1 mL, 12 mmol) slowly at −78° C. The reaction was stirred at room temperature for 1 h then was concentrated and diluted with DCM (10 mL). The solution was stirred with 3 eq. of MP-carbonate resin (3.28 mmol/g, Biotage) for 1 h at room temperature. The resin was removed by filtration and washed (2×5 mL) with DCM. The filtrate was concentrated and purified through HPLC to give (S)-3-(2-(((S)-1-(4-((3,3-dimethylpiperazin-1-yl)methyl)phenyl)ethyl)amino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one as a white solid (23 mg, 36% yield).

reactant | tert-butyl 4-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)-2,2-dimethylpiperazine-1-carboxylate | 0.14 mmol, 78 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(CN2CC(N(CC2)C(=O)OC(C)(C)C)(C)C)C=C1 | C30H44N6O4
reactant | TFA | 12 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MP-carbonate resin | 3 eq. | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(2-(((S)-1-(4-((3,3-dimethylpiperazin-1-yl)methyl)phenyl)ethyl)amino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 23 mg, 36% yield | CC1(CN(CCN1)CC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O)C | C25H36N6O2
